US05430027
2', 3', 5'-Tri-O-benzoyl-2-chloro-N-(2-phenylethoxy)adenosine.
9-(2,3,5-Tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.0 g, 3.2 mmol), O-(2-phenylethyl)hydroxylamine hydrochloride (0.70 g, 4.0 mmol) and diisopropylethylamine (0.95 g, 7.4 mmol) were dissolved in 1,4-dioxan (40 ml) and heated at reflux for 3 days. After cooling the reaction mixture was diluted with dichloromethane (50 ml) and washed with water (2×30 ml). The organic phase was dried (MgSO4). Flash chromatography on a silica gel column, eluting with heptane/ethyl acetate (1/1) gave the desired product as a foam (1.54 g, 66%), 1H NMR (DMSO-d6)γ 3.05 (2H, t, --OCH2 --), 4.19 (2H, t,--CH2Ph), 4.70 (1H, dd, H-5'a), 4.80 (1H, dd, H-5'b), 4.90 (1H, dd, H-4'), 5.22 (1H, t, H-3'), 6.39 (1H, t, H-2'), 6.59 (1H, d, H-1'), 8.51 (1H, s H-8).

reactant | 9-(2,3,5-Tri-O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 3.2 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | O-(2-phenylethyl)hydroxylamine hydrochloride | 4.0 mmol, 0.70 g | Cl.C1(=CC=CC=C1)CCON
reactant | diisopropylethylamine | 7.4 mmol, 0.95 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxan | 40 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2', 3', 5'-Tri-O-benzoyl-2-chloro-N-(2-phenylethoxy)adenosine | 1.54 g, 66% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C=NC=2C(NOCCC3=CC=CC=C3)=NC(=NC12)Cl | C39H32ClN5O8
